US05491172
A mixture of methyl acrylate (15.9 mL, 176 mmol) and bis(triphenylphosphine)palladium (II) chloride (0.99 g, 1.4 mmol) in 125 mL dimethylformamide and 125 mL triethylamine was heated to reflux for 1 hour and then 2,4,6-triisopropylbromobenzene (10.0 g, 35 mmol) was added. Reflux was continued for 6 hours and then stirred at room temperature for 16 hours. Partitioned the reaction between water and diethyl ether. The ether layer was dried with MgSO4, filtered, and concentrated to give a brown oil. Chromatography (SiO2, eluant=5% ethyl acetate in hexanes) gave 3.80 g of 3-[2,4,6-tris(1-methylethyl)phenyl]-2-propenyl carboxylic acid, methyl ester as an off-white solid, mp 61°-63° C.

reactant | methyl acrylate | 176 mmol, 15.9 mL | C(C=C)(=O)OC | C4H6O2
reactant | 2,4,6-triisopropylbromobenzene | 35 mmol, 10.0 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)Br | C15H23Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 125 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 1.4 mmol, 0.99 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-[2,4,6-tris(1-methylethyl)phenyl]-2-propenyl carboxylic acid, methyl ester | 3.80 g | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)C=CCC(=O)OC | C20H30O2
